US08912209B2
Intermediate 13: 4-[2-(1-tert-Butoxycarbonylamino-ethyl)-5-(pyridin-4-ylcarbamoyl)-phenyl]-1H-pyrrole-2-carboxylic acid
To a solution of 4-[2-(1-tert-Butoxycarbonylamino-ethyl)-5-(pyridin-4-ylcarbamoyl)-phenyl]-1H-pyrrole-2-carboxylic acid methyl ester (661 μmol) in THF (1.6 ml) and MeOH (1.6 ml) was added a 1N LiOH solution (1.6 ml). The reaction mixture was stirred at 40° C. for 1.5 hours. The reaction mixture was diluted with saturated NaHCO3 and extracted with EtOAc. The aqueous layer is acidified with a 20% citric acid solution and extracted again with EtOAc. The combined organic layers were dried over MgSO4 and the solvent was removed under reduced pressure.

reactant | 4-[2-(1-tert-Butoxycarbonylamino-ethyl)-5-(pyridin-4-ylcarbamoyl)-phenyl]-1H-pyrrole-2-carboxylic acid methyl ester | 661 μmol | COC(=O)C=1NC=C(C1)C1=C(C=CC(=C1)C(NC1=CC=NC=C1)=O)C(C)NC(=O)OC(C)(C)C | C25H28N4O5
reactant | LiOH | 1N, 1.6 ml | [Li+].[OH-]
solvent | THF | 1.6 ml | C1CCOC1 | C4H8O
solvent | MeOH | 1.6 ml | CO | CH4O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-[2-(1-tert-Butoxycarbonylamino-ethyl)-5-(pyridin-4-ylcarbamoyl)-phenyl]-1H-pyrrole-2-carboxylic acid | C(C)(C)(C)OC(=O)NC(C)C1=C(C=C(C=C1)C(NC1=CC=NC=C1)=O)C=1C=C(NC1)C(=O)O | C24H26N4O5
